US06939885B2
Synthesis of N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 138 mg of (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone and 117 mg of 4-Isopropoxy-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.31 (d, 6H, J=6 Hz), 4.49 (q, 1H, J=6.0 Hz), 6.73 (d, 2H, J=6.8 Hz), 7.39 (m, 3H), 7.63-7.70 (m, 4H), 8.82 (d, 2H, J=6.0 Hz), 9.99 (s, 1H). MS: m/z 476.0 (M++1)

reactant | (2-Amino-5-bromo-phenyl)-pyridin-4-yl-methanone | 138 mg | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=NC=C1 | C12H9BrN2O
reactant | 4-Isopropoxy-benzenesulfonyl chloride | 117 mg | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO3S
product | N-[4-Bromo-2-(pyridine-4-carbonyl)-phenyl]-4-isopropoxy-benzenesulfonamide | BrC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C)C(=O)C1=CC=NC=C1 | C21H19BrN2O4S
